US07772245B2
Sodium borohydride (0.590 g, 15.94 mmol) was added at once to a solution of 1-benzyl-4-(2-methoxyphenyl)-1,2,3,6-tetrahydropyridine (2.0 g, 7.16 mmol) in (7 mL) anhydrous diglyme at 0° C. The reaction mixture was warmed to room temperature and a solution of borontrifluoride etherate (2.0 g 14.2 mmol) in (2 mL) diglyme was added dropwise under a N2. The reaction mixture was stirred at room temperature for 2 h. Water (0.8 mL) was then added to the reaction mixture slowly followed by 6N NaOH (1.8 mL). The reaction mixture was heated to 50° C. for another 45 min. and then 30% H2O2 (1.7 mL, 14.7 mmol) was added. The reaction mixture was stirred for another 45 min., Concentrated HCl (1.7 mL) was added and the solvents were evaporated in vacuum. Water (7 mL) was added to the residue and the solvent again evaporation. The residue was quenched with saturated ammonium hydroxide solution and extracted with DCM (2×50 mL). The organic layer was dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to give 1-benzyl-4-(2-methoxyphenyl)piperidin-3-ol (1.0 g, 50%); 1H NMR (200 MHz, CDCl3): δ 1.79-2.18 (m, 5H), 2.91-3.045 (m, 2H), 3.184-3.256 (dd, J=10.4, 4.0 Hz, 2H), 3.615 (s, 2H), 3.827 (s, 3H), 3.785-3.949 (m, 1H), 6.892 (d, J=8.5 Hz, 2H), 6.974 (t, J=7.5 Hz, 1H), 7.188-7.416 (m, 7H); m/e=297 (M+1).

reactant | Sodium borohydride | 15.94 mmol, 0.590 g | [BH4-].[Na+]
reactant | 1-benzyl-4-(2-methoxyphenyl)-1,2,3,6-tetrahydropyridine | 7.16 mmol, 2.0 g | C(C1=CC=CC=C1)N1CCC(=CC1)C1=C(C=CC=C1)OC | C19H21NO
reactant | borontrifluoride etherate | 14.2 mmol, 2.0 g | B(F)(F)F.CCOCC
reactant | NaOH | 6N, 1.8 mL | [OH-].[Na+]
reactant | H2O2 | 14.7 mmol, 1.7 mL | OO | H2O2
reactant | HCl | 1.7 mL | Cl | ClH
solvent | diglyme | 7 mL | COCCOCCOC | C6H14O3
solvent | diglyme | 2 mL | COCCOCCOC | C6H14O3
solvent | Water | 0.8 mL | O | H2O
product | 1-benzyl-4-(2-methoxyphenyl)piperidin-3-ol | 1.0 g, 50% | C(C1=CC=CC=C1)N1CC(C(CC1)C1=C(C=CC=C1)OC)O | C19H23NO2
